US06765095B2
Preparation of 2-phenoxy-3-[3-(3-methoxypyridin-4-yl)propoxy]pyridine:
Sodium hydride (60% in mineral oil, 0.04 g, 1.0 mmol) is suspended in DMF (10 ml), and thereto is added 2-phenoxy-3-[3-(3-hydroxypyridin-4-yl)propoxy]pyridine (0.20 g, 0.62 mmo) obtained in Example 30 at room temperature, and the mixture is stirred for 30 minutes. To the mixture is added methyl iodide (0.06 ml, 1.0 mmol) under ice-cooling, and the mixture is stirred for 1 0 minutes. To the reaction solution is added ethyl acetate (50 ml), and the mixture is washed with a saturated brine (30 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: chloroform/methanol), and recrystallized from isopropyl ether to give the title compound (0.09 g) as colorless crystals, m.p. 101-102° C.

reactant | Sodium hydride | 1.0 mmol, 0.04 g | [H-].[Na+]
reactant | 2-phenoxy-3-[3-(3-hydroxypyridin-4-yl)propoxy]pyridine | 0.20 g | O(C1=CC=CC=C1)C1=NC=CC=C1OCCCC1=C(C=NC=C1)O | C19H18N2O3
reactant | methyl iodide | 1.0 mmol, 0.06 ml | CI | CH3I
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-phenoxy-3-[3-(3-methoxypyridin-4-yl)propoxy]pyridine | 0.09 g | O(C1=CC=CC=C1)C1=NC=CC=C1OCCCC1=C(C=NC=C1)OC | C20H20N2O3
